US07781428B2
(±)-(3SR,3aRS)-2-(bis(2-hydroxyethyl)amino)ethyl 2-(3-chloro-4-cyanophenyl)-3-cyclopentyl-3,3a,4,5-tetrahydro-2H-benzo[g] indazole-7-carboxylate
The title compound was prepared from (±)-(3SR,3aRS)-2-(3-chloro-4-cyanophenyl)-3-cyclopentyl-3,3a,4,5-tetrahydro-2H-benzo[g]indazole-7-carboxylic acid, Example 15 and triethanolamine according to Method E. 1H NMR (400 MHz, CDCl3) δ ppm 1.17-1.66 (m, 7H), 1.70-1.82 (m, 1H), 1.88-2.02 (m, 1H), 2.06-2.18 (m, 1H), 2.23-2.45 (m, 1H), 2.79-2.85 (m, 4H), 2.86-2.97 (m, 1H), 3.03 (t, J=5.50 Hz, 2H), 3.07-3.17 (m, 1H), 3.48 (ddd, J=13.90, 9.47, 4.83 Hz, 1H), 3.63-3.70 (m, 4H), 4.48 (t, J=5.50 Hz, 2H), 4.63 (dd, J=9.40, 5.37 Hz, 1H), 7.01 (dd, J=8.86, 2.15 Hz, 1H), 7.29 (d, J=2.15 Hz, 1H), 7.45 (d, J=8.86 Hz, 1H), 7.82-7.99 (m, 2H), 8.15 (d, J=8.59 Hz, 1H). ES-MS m/z 551 (M+H)

reactant | (±)-(3SR,3aRS)-2-(3-chloro-4-cyanophenyl)-3-cyclopentyl-3,3a,4,5-tetrahydro-2H-benzo[g]indazole-7-carboxylic acid | ClC=1C=C(C=CC1C#N)N1N=C2C3=C(CCC2C1C1CCCC1)C=C(C=C3)C(=O)O | C24H22ClN3O2
reactant | triethanolamine | N(CCO)(CCO)CCO | C6H15NO3
product | (±)-(3SR,3aRS)-2-(bis(2-hydroxyethyl)amino)ethyl 2-(3-chloro-4-cyanophenyl)-3-cyclopentyl-3,3a,4,5-tetrahydro-2H-benzo[g] indazole-7-carboxylate | ClC=1C=C(C=CC1C#N)N1N=C2C3=C(CCC2C1C1CCCC1)C=C(C=C3)C(=O)OCCN(CCO)CCO | C30H35ClN4O4
